* NGSPICE file created from transmissiongate.ext - technology: sky130A

.subckt sky130_fd_pr__nfet_01v8_KRUHEH a_15_n75# a_n73_n75# VSUBS
X0 a_15_n75# a_n15_n101# a_n73_n75# VSUBS sky130_fd_pr__nfet_01v8 ad=0.2175 pd=2.08 as=0.2175 ps=2.08 w=0.75 l=0.15
.ends

.subckt sky130_fd_pr__pfet_01v8_MDJ67A a_15_n150# a_n73_n150# w_n109_n212#
X0 a_15_n150# a_n15_n176# a_n73_n150# w_n109_n212# sky130_fd_pr__pfet_01v8 ad=0.435 pd=3.58 as=0.435 ps=3.58 w=1.5 l=0.15
.ends

.ckt transmissiongate
Xsky130_fd_pr__nfet_01v8_KRUHEH_0 out in VSUBS sky130_fd_pr__nfet_01v8_KRUHEH
Xsky130_fd_pr__pfet_01v8_MDJ67A_0 out in a_neg sky130_fd_pr__pfet_01v8_MDJ67A
.end

